US07504401B2
3-Bromo-5-(pyridin-3-ylamino)-benzonitrile was prepared from 3,5-dibromobenzonitrile and pyridin-3-ylamine as described for Example 36, except that the reaction was run at 130° C. This material was converted to 3-(1H-indol-4-yl)-5-(pyridin-3-ylamino)-benzonitrile by the method of Example 35. 1H NMR (400 MHz, CDCl3): δ 8.47 (s, 2H), 8.28 (d, J=4.3 Hz, 1H), 7.55-7.49 (m, 3H), 7.44 (d, J=8.2 Hz, 1H), 7.30-7.23 (m, 4H), 7.12 (dd, J=7.3, 0.9 Hz, 1H), 6.63 (t, J=2.5 Hz, 1H), 6.05 (s, 1H).

reactant | 3,5-dibromobenzonitrile | BrC=1C=C(C#N)C=C(C1)Br | C7H3Br2N
reactant | pyridin-3-ylamine | N1=CC(=CC=C1)N | C5H6N2
reactant | 3-(1H-indol-4-yl)-5-(pyridin-3-ylamino)-benzonitrile | N1C=CC2=C(C=CC=C12)C=1C=C(C#N)C=C(C1)NC=1C=NC=CC1 | C20H14N4
product | 3-Bromo-5-(pyridin-3-ylamino)-benzonitrile | BrC=1C=C(C#N)C=C(C1)NC=1C=NC=CC1 | C12H8BrN3
